US06326386B1
3-Chloro-N-isopropyl-5-[2-(pyridin-4-ylamino)-ethoxy]-N-[2-(pyridin-2-yloxy)-ethyl]-benzamide)
A solution of {2-[3-chloro-5-(isopropyl-2-(pyridin-2-yloxy)-ethyl-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester (0.033 g) and TFA (0.4 ml) in dichloromethane (0.4 ml) was stirred at room temp for 3 h then concentrated under vacuum. The residue was purified by flash chromatography on silica eluting with dichloromethane/methanol/ammonia (94:6:1) to give the title compound as a colourless gum (0.005 g).

reactant | {2-[3-chloro-5-(isopropyl-2-(pyridin-2-yloxy)-ethyl-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.033 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCOC1=NC=CC=C1)C(C)C)=O)Cl)=O | C29H35ClN4O5
reactant | TFA | 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 0.4 ml | ClCCl | CH2Cl2
product | 3-Chloro-N-isopropyl-5-[2-(pyridin-4-ylamino)-ethoxy]-N-[2-(pyridin-2-yloxy)-ethyl]-benzamide | 0.005 g | ClC=1C=C(C(=O)N(CCOC2=NC=CC=C2)C(C)C)C=C(C1)OCCNC1=CC=NC=C1 | C24H27ClN4O3
